US09172045B2
In a stream of nitrogen, a 500 mL egg-plant flask was charged with 60.0 g (257.4 mmol) of 2-nitro-6-chlorobiphenyl, obtained in Synthesis Example 1. The content was heated to 140° C., and 106 g of triethyl phosphite was dropwise added over 2 hours. After the dropwise addition, the content was further heated at 140° C. for 2 hours. Then triethyl phosphite was distilled off under reduced pressure. Toluene was added to the residue, and the thus-deposited solid was filtered. The thus-obtained crude product was purified by silica gel column chromatography using toluene as a developing solvent to give 18.9 g (93.72 mmol) of 4-chlorocarbazole as a white powder (yield: 36%).

reactant | 2-nitro-6-chlorobiphenyl | 257.4 mmol, 60.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)Cl)C1=CC=CC=C1 | C12H8ClNO2
reactant | triethyl phosphite | 106 g | P(OCC)(OCC)OCC | C6H15O3P
product | 4-chlorocarbazole | 93.72 mmol, 18.9 g, yield: 36% | ClC1=CC=CC=2NC3=CC=CC=C3C12 | C12H8ClN
